US04853410
3-(4-Chlorophenoxy)butyric Acid
To a solution of 40 g (1 mol) sodium hydroxide in 400 ml water was added 128.6 g (1 mol) 4-chlorophenol and the reaction was heated at reflux for 15 minutes. To the refluxing solution was added 81.5 g (1 mol) of beta-butyrolactone dropwise over 1 hour. The reaction was cooled to 23° C., acidified with 100 ml concentrated hydrochloric acid and extracted with 2×500 ml diethyl ether. The ether layers were combined and extracted with 5×300 ml saturated aqueous sodium bicarbonate solution. The bicarbonate extracts were combined, acidified by slow dropwise addition of 160 ml concentrated hydrochloric acid and extracted with 250 ml diethyl ether. The latter ether extract was washed with brine, dried over magnesium sulfate and concentrated in vacuo to give the product as a white solid, 24 g (11%).

reactant | sodium hydroxide | 1 mol, 40 g | [OH-].[Na+]
reactant | 4-chlorophenol | 1 mol, 128.6 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | beta-butyrolactone | 1 mol, 81.5 g | C1(CC(C)O1)=O | C4H6O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | 400 ml | O | H2O
product | 3-(4-Chlorophenoxy)butyric Acid | ClC1=CC=C(OC(CC(=O)O)C)C=C1 | C10H11ClO3
